US07084139B2
N-Piperidin-3-ylbenzamide
A solution of tert-butyl 3-(benzoylamino)piperidine-1-carboxylate (0.120 g) in DCM (5 ml) was treated with trifluoroacetic acid (5 ml) and stirred at room temperature for 6 h. The mixture was concentrated under reduced pressure to give a yellow oil which following neutralisation with aqueous ammonia solution, was purified using SPE (silica, eluting with methanol and 5% aqueous ammonia in methanol) to give the title compound (0.085 g) as an off-white solid.

reactant | tert-butyl 3-(benzoylamino)piperidine-1-carboxylate | 0.120 g | C(C1=CC=CC=C1)(=O)NC1CN(CCC1)C(=O)OC(C)(C)C | C17H24N2O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-Piperidin-3-ylbenzamide | 0.085 g | N1CC(CCC1)NC(C1=CC=CC=C1)=O | C12H16N2O
